### PR TITLE
Dagaz ch2

### PR DESCRIPTION
**Pull request by tangyongsheng17-sudo**
Relocated all local definitions (e.g., `set (λ P0 Q0 : Prop, ...)`) to the very beginning of the proofs.  And Make the structure clearer and the content more faithful to the original.

### CODE REVIEW

File: pm/dagaz/ch2.v [hunk 1]
```diff
@@ -66,7 +66,9 @@ Qed.
 Theorem n2_07 (P : Prop) :
   P → (P ∨ P).
 Proof.
-  exact (Add1_3 P P).
+  assert (S1 : P → (P ∨ P)).
+  { exact (Add1_3 P P). }
+  exact S1.
```
[the remark this answers is not in the document]
Comment (InfiniteEchoes) [reply pm/dagaz/ch2.v]: For other occurrences of short proofs that needs to be refactored:
n2_1, n2_21, n2_24, n2_26(which we still need to retain the `TOOLS` section), n2_27, n2_37, n2_38, n2_42 - n2_521, n2_61 - n2_65, ... and so on.

Refactoring theorems with short proofs will greatly reduce the length for the proofs.

File: pm/dagaz/ch2.v [hunk 2]
```diff
@@ -331,518 +332,575 @@ Theorem n2_3 (P Q R : Prop) :
...
 Proof.
-  assert (S1 : Q ∨ P → P ∨ Q).
-  { exact (Perm1_4 Q P). }
-  assert (S2 : (Q ∨ P → P ∨ Q) → ((P ∨ Q → P ∨ R) → (Q ∨ P → P ∨ R))).
-  { exact (Syll2_06 (Q ∨ P) (P ∨ Q) (P ∨ R)). }
-  assert (S3 : (P ∨ Q → P ∨ R) → (Q ∨ P → P ∨ R)).
-  { now MP S2 S1. }
-  assert (S4 : (Q → R) → (P ∨ Q → P ∨ R)).
+  assert (S1 : (P ∨ Q → P ∨ R) → (Q ∨ P → P ∨ R)).
+  { exact (Syll2_06 (Q ∨ P) (P ∨ Q) (P ∨ R) (Perm1_4 Q P)). }
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: Using *theorems* as parameters of another theorem is strictly not allowed. That being said, `Perm1_4 Q P` should not occur as a parameter of `Syll2_06`.
Typically speaking, all valid propositions should be able to be deduced through `MP` and `Syll_as`. For case above, it is pretty apparent that this should be written as 
```Coq
pose proof (Syll2_06 (Q ∨ P) (P ∨ Q) (P ∨ R)) as Syll2_06.
pose proof (Perm1_4 Q P) as Perm1_4.
now MP Syll20_06 Perm1_4.
````
Similarly check all other occurrences where there should be an explicit `MP`.

File: pm/dagaz/ch2.v [hunk 3]
```diff
@@ -91,7 +91,7 @@ Proof.
   (* TOOLS *)
   set (λ P0 Q0 : Prop, eq_to_equiv (P0 → Q0) (¬ P0 ∨ Q0) (Impl1_01 P0 Q0)) as Impl1_01a.
   (* ******** *)
-  rewrite (Impl1_01a P P).
+  rewrite <- (Impl1_01a P P).
   exact (Id2_08 P).
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: `rewrite`, to be more general, almost all tactics are *strictly not allowed* to apply directly on the goal. They have to be only applied to hypothesis being asserted with `pose proof`, `set`, or after they have been modified with `MP`, `Syll`, or `rewrite`. That being said, we never see `rewrite ...`, but only `rewrite ... in ...`. 

The only exception is when we want to debug a proof, or a proof is too long and  tedious to expand in full detail.
